US08748434B2
d) 3-(3-tert-Butoxycarbonyl-propylsulfanyl)-5-trifluoromethyl-benzoic acid methyl ester
To a solution of 3-mercapto-5-trifluoromethyl-benzoic acid methyl ester (990 mg, 4.19 mmol) in acetonitrile (25 mL) were added N,N-diisopropylethylamine (1.08 g, 1.46 mL, 8.38 mmol) and tert-butyl 4-bromobutanoate (935 mg, 4.19 mmol, CAS RN 110611-91-1). The clear yellow solution was stirred at room temperature for 2.5 hours and then poured on water and ethyl acetate and the layers were separated. The aqueous layer was extracted twice with ethyl acetate. The organic layers were washed with brine, dried over magnesium sulfate, filtered, treated with silica gel and evaporated. The compound was purified by silica gel chromatography on a 50 g column using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate (100:0 to 70:30). Light yellow liquid (1.27 g, 80%). MS (ESI+): m/z=379 ([M+]).

reactant | 3-mercapto-5-trifluoromethyl-benzoic acid methyl ester | 4.19 mmol, 990 mg | COC(C1=CC(=CC(=C1)C(F)(F)F)S)=O | C9H7F3O2S
reactant | N,N-diisopropylethylamine | 8.38 mmol, 1.46 mL, 1.08 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl 4-bromobutanoate | 4.19 mmol, 935 mg | BrCCCC(=O)OC(C)(C)C | C8H15BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 3-(3-tert-Butoxycarbonyl-propylsulfanyl)-5-trifluoromethyl-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C(F)(F)F)SCCCC(=O)OC(C)(C)C)=O | C17H21F3O4S
